US04673429
41.6 g of iodine are added, a little at a time, to 20 g of 1-pyrazolyl propargyl ether and 20 g of sodium carbonate in 400 g of acetonitrile at 40° C., while stirring. Stirring is continued for 8 hours at 40° C., after which undissolved material is filtered off under suction, and the filtrate is evaporated down in a rotary evaporator at 30° C. and under 20 mbar. The residue is dissolved in 200 g of dichloromethane, the solution is extracted twice with 200 g of 10% strength aqueous sodium thiosulfate solution, and the organic phase is dried with magnesium sulfate and evaporated down. 40 g (99% of theory) of 1-pyrazolyl iodopropargyl ether are obtained as an oil (H1 --NMR, in ppm: 5.1, s, 2H; 6.2, m, 1H; 7.4, m, 2H).

reactant | iodine | 41.6 g | II | I2
reactant | 1-pyrazolyl propargyl ether | 20 g | C(C#C)ON1N=CC=C1 | C6H6N2O
reactant | sodium carbonate | 20 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 400 g | C(C)#N | C2H3N
product | 1-pyrazolyl iodopropargyl ether | 40 g, 99% | IC(C#C)ON1N=CC=C1 | C6H5IN2O
